* PNP Common-Emitter Amplifier AC Response
* Voltage-divider-biased PNP stage using a 2N3906 on a -12 V rail.
* AC response sweeps from 1 Hz to 100 MHz, exposing the low-frequency
* coupling-capacitor roll-off and the high-frequency pole dictated by
* device junction capacitances.
* Devices exercised: V, R, C, Q (PNP bundled 2N3906).

.title PNP Common-Emitter AC Response
.include "../../resources/models/ngspice/testcircuit_discrete.lib"

* --- Negative supply and AC test source ---
Vss vss 0 DC -12
Vin in  0 AC 1

* --- Base voltage divider from Vss ---
Rb1 vss base 68k
Rb2 base 0   12k

* --- Collector load (to -Vss) and emitter degeneration ---
Rc vss col 4.7k
Re emit 0  1k
Ce emit 0  22u

* --- AC coupling ---
Cin  in  base 10u
Cout col out  10u
Rload out 0   47k

* --- PNP device (collector / base / emitter) ---
Q1 col base emit 2N3906

* --- Analysis ---
.ac dec 20 1 100Meg

.MEASURE AC av_midband FIND vdb(out) AT=10k

.end
