* Complementary NPN/PNP Class-B Push-Pull Output Stage
* 2N3904 and 2N3906 paired as a classic class-B emitter-follower
* output stage driven by a common sinusoid. Shows the crossover
* distortion notch around zero where neither device is on.
* Devices exercised: V (supplies + input), R, Q (NPN 2N3904 + PNP 2N3906).

.title Class-B Complementary Push-Pull
.include "../../../resources/models/ngspice/testcircuit_discrete.lib"

* --- Split supplies and shared sinusoidal input ---
Vdd vdd 0 DC 12
Vss vss 0 DC -12
Vin in  0 SIN(0 3 1k)

* --- Top half: NPN sources current from Vdd on positive half-cycles ---
Qnpn vdd in out 2N3904

* --- Bottom half: PNP sinks current into Vss on negative half-cycles ---
Qpnp vss in out 2N3906

* --- Load on the shared emitter node ---
Rload out 0 100

* --- Analysis ---
.tran 10u 5m

.MEASURE TRAN v_out_pp PP V(out) FROM=1m TO=5m

.end
