* NPN Emitter Follower Bias Point
* Textbook NPN emitter follower (common-collector) with a simple
* 2:1 base divider and a resistive emitter load. .op reports the
* base, emitter and collector voltages so the user can verify the
* ~0.7 V VBE drop between base and emitter.
* Devices exercised: V, R, Q (NPN bundled 2N3904).

.title NPN Emitter Follower
.include "../../../resources/models/ngspice/testcircuit_discrete.lib"

* --- Supply ---
Vdd vdd 0 DC 12

* --- Base bias divider (mid-rail) ---
Rb1 vdd base 10k
Rb2 base 0   10k

* --- Emitter load ---
Re  emit 0   4.7k

* --- NPN device (collector tied directly to Vdd) ---
Q1  vdd base emit 2N3904

* --- Analysis: DC operating point ---
.op

.end
