* Full-Wave Diode Bridge Rectifier
* Four-diode bridge converting a floating AC source into a
* pulsating DC waveform on a resistive load. An output smoothing
* capacitor flattens the ripple. A 1-ohm reference resistor keeps the
* negative DC output near ground while the bridge inputs float.
* Devices exercised: V, R, C, D (×4).

.title Full-Wave Bridge Rectifier
.include "../../../resources/models/ngspice/testcircuit_discrete.lib"

* --- Floating AC source between the two bridge inputs ---
Vac  ac_hi  ac_lo  SIN(0 10 50)

* --- Diode bridge: routes each half-cycle to the same polarity ---
D1  ac_hi  pos  1N4148
D2  ac_lo  pos  1N4148
D3  neg    ac_hi 1N4148
D4  neg    ac_lo 1N4148

* --- Reference the negative bridge node near ground through 1 ohm ---
Rgnd neg 0 1

* --- Smoothing filter on the rectified output ---
Cfilt pos 0 100u
Rload pos 0 1k

* --- Analysis: several line cycles after the cap fills up ---
.tran 200u 100m

.MEASURE TRAN v_peak MAX V(pos)
.MEASURE TRAN v_avg  AVG V(pos) FROM=60m TO=100m

.end
