* Three-Stage CMOS Ring Oscillator
* Three CMOS inverters connected in a closed ring. With an odd
* number of stages the feedback is net-inverting, so the circuit is
* unstable at its DC fixed point and breaks into self-oscillation.
* The oscillation period is ~ 2 * N * t_pd where t_pd is the
* inverter propagation delay and N = 3. Node capacitors load each
* stage so the delay is measurable and .tran can capture the
* waveform directly. A slight IC= on n1 kicks the oscillator out of
* its unstable DC equilibrium on start-up.
* Devices exercised: V, M (PMOS BSS84 x3 + NMOS BSS123 x3), C (x3).

.title 3-Stage CMOS Ring Oscillator
.include "../../resources/models/ngspice/testcircuit_discrete.lib"

* --- Supply ---
Vdd vdd 0 DC 5

* ============================================================
* Inverter 1: n3 -> n1 (kicked off by IC=0.5)
* ============================================================
M1p n1 n3 vdd vdd BSS84
M1n n1 n3 0   0   BSS123
C1  n1 0  1p IC=0.5

* ============================================================
* Inverter 2: n1 -> n2
* ============================================================
M2p n2 n1 vdd vdd BSS84
M2n n2 n1 0   0   BSS123
C2  n2 0  1p

* ============================================================
* Inverter 3: n2 -> n3 (closing the ring)
* ============================================================
M3p n3 n2 vdd vdd BSS84
M3n n3 n2 0   0   BSS123
C3  n3 0  1p

* --- Analysis: let the ring oscillate for a few hundred nanoseconds ---
.tran 200p 500n UIC

.MEASURE TRAN v_peak  MAX V(n1)
.MEASURE TRAN v_valley MIN V(n1)

.end
