* BJT Current Mirror Operating Point
* A reference current is forced into a diode-connected Q1; matched
* Q2 mirrors that current into its own collector load. .op confirms
* the mirrored current (IC(Q2)) tracks the reference Iref and that
* both devices sit at the same VBE.
* Devices exercised: V, I (current source), R, Q (NPN bundled 2N3904).

.title BJT Current Mirror
.include "../../resources/models/ngspice/testcircuit_discrete.lib"

* --- Supply ---
Vdd vdd 0 DC 10

* --- Reference current into the diode-connected transistor ---
Iref vdd ref DC 1m

* --- Mirror output load (Q2 sinks current supplied through Rout) ---
Rout vdd mirror 5k

* --- Diode-connected Q1 sets the reference VBE ---
Q1 ref ref 0 2N3904

* --- Matched Q2 produces the mirrored current ---
Q2 mirror ref 0 2N3904

* --- Analysis: DC operating point ---
.op

.end
