* BJT Differential Pair with Tail Current Source
* Symmetric NPN long-tailed pair biased by an ideal tail current
* source Itail. With both inputs tied to the same common-mode
* voltage, .op should show the tail current splitting equally
* between Q1 and Q2 (IC1 ~ IC2 ~ Itail/2) and matching collector
* voltages.
* Devices exercised: V, I (current source), R, Q (NPN bundled 2N3904, x2).

.title BJT Differential Pair Operating Point
.include "../../resources/models/ngspice/testcircuit_discrete.lib"

* --- Supplies and common-mode input ---
Vdd vdd 0    DC 10
Vss vss 0    DC -10
Vcm cm  0    DC 0

* --- Collector loads ---
Rc1 vdd col1 10k
Rc2 vdd col2 10k

* --- Tail current source pulling down to Vss ---
Itail tail vss DC 1m

* --- Differential pair ---
Q1 col1 cm tail 2N3904
Q2 col2 cm tail 2N3904

* --- Analysis: DC operating point ---
.op

.end
