* NJF Self-Bias Operating Point
* Classic JFET self-bias: gate held at ground via a large resistor,
* source lifted by Rs so that VGS = -ID * Rs stays inside the
* device's active region without any separate bias supply. .op
* reports the settled drain current and pinch-off condition.
* Devices exercised: V, R, J (NJF bundled 2N3819).

.title NJF Self-Bias
.include "../../resources/models/ngspice/testcircuit_discrete.lib"

* --- Supply ---
Vdd vdd 0 DC 12

* --- Gate-to-ground bias resistor (high-Z input reference) ---
Rg gate 0 1Meg

* --- Drain load ---
Rd vdd drain 4.7k

* --- Source self-bias resistor ---
Rs src 0 2.2k

* --- JFET (drain / gate / source) ---
J1 drain gate src 2N3819

* --- Analysis: DC operating point ---
.op

.end
