* NPN Common-Emitter Bias Point
* Voltage-divider-biased NPN common-emitter stage. The .op analysis
* solves the DC operating point so the user can verify that the
* transistor is in the forward-active region (VCE around VDD/2) and
* that the quiescent collector current matches design intent.
* Devices exercised: V, R, Q (NPN bundled 2N3904).

.title NPN Common-Emitter Bias Point
.include "../../resources/models/ngspice/testcircuit_discrete.lib"

* --- Supply ---
Vdd vdd 0 DC 12

* --- Voltage-divider base bias ---
Rb1 vdd base 68k
Rb2 base 0   12k

* --- Collector load and emitter degeneration ---
Rc vdd col  4.7k
Re emit 0   1k

* --- NPN device ---
Q1 col base emit 2N3904

* --- Analysis: DC operating point ---
.op

.end
