* PNP Common-Emitter Bias Point
* Dual of the NPN common-emitter stage, biased off a negative rail.
* Running .op reveals the quiescent collector current and VEC to
* confirm the 2N3906 sits in its active region.
* Devices exercised: V, R, Q (PNP bundled 2N3906).

.title PNP Common-Emitter Bias Point
.include "../../resources/models/ngspice/testcircuit_discrete.lib"

* --- Negative supply ---
Vss vss 0 DC -12

* --- Voltage-divider base bias referenced to Vss ---
Rb1 vss base 68k
Rb2 base 0   12k

* --- Collector load (to -Vss) and emitter degeneration ---
Rc vss col  4.7k
Re emit 0   1k

* --- PNP device ---
Q1 col base emit 2N3906

* --- Analysis: DC operating point ---
.op

.end
