* Diode Half-Wave Rectifier with RC Smoothing
* A 50 Hz AC source is rectified by a single diode and smoothed
* by a parallel RC load. Transient capture shows the classic
* ripple waveform on the load.
* Devices exercised: V, D (bundled 1N4148), R, C.

.title Diode Half-Wave Rectifier
.include "../../resources/models/ngspice/testcircuit_discrete.lib"

* --- AC line source, 50 Hz, 5 Vpk ---
Vac ac_in 0 SIN(0 5 50)

* --- Rectifier + smoothing load ---
D1    ac_in  rect  1N4148
Rload rect   0     10k
Cload rect   0     100u

* --- Analysis: cover 5 full line cycles after smoothing kicks in ---
.tran 100u 100m

.MEASURE TRAN v_peak MAX V(rect)
.MEASURE TRAN v_avg  AVG V(rect) FROM=60m TO=100m

.end
