* NJF Source Follower Tracking a Sine Input
* A 2N3819 N-channel JFET wired as a unity-gain source follower. An
* AC-coupled sine input drives the high-impedance gate and the source
* follows the input around a self-biased DC source level (about 2.4 V
* for this model and resistor), while preserving the small AC swing.
* Devices exercised: V, R, C, J (NJF bundled 2N3819).

.title NJF Source Follower
.include "../../resources/models/ngspice/testcircuit_discrete.lib"

* --- Supply and 100 mV / 1 kHz sine input ---
Vdd vdd 0 DC 10
Vin in  0 SIN(0 0.1 1k)

* --- Gate bias (high-impedance to ground) ---
Rg 0  gate 1Meg
Cg in gate 1u

* --- Source follower resistor ---
Rs sfollow 0 5k

* --- JFET (drain / gate / source) ---
J1 vdd gate sfollow 2N3819

* --- Analysis: capture several cycles of the 1 kHz signal ---
.tran 10u 5m

.MEASURE TRAN v_out_pp PP V(sfollow) FROM=1m TO=5m

.end
