* Underdamped Series RLC Step Response
* A lightly-damped series RLC circuit rings after a step input.
* Component values give f0 ~ 5.03 kHz, Q ~ 3.16, producing visible
* decaying sinusoidal oscillation on the capacitor node.
* Devices exercised: V, R, L, C.

.title Underdamped RLC Step Response

* --- 5 V step source ---
Vin in 0 PULSE(0 5 100u 1u 1u 5m 10m)

* --- Series R, L, C to ground ---
R1 in  n1  10
L1 n1  n2  1m
C1 n2  0   1u

* --- Analysis: long enough to see the ring settle out ---
.tran 2u 3m

.MEASURE TRAN v_peak MAX V(n2)
.MEASURE TRAN v_final FIND V(n2) AT=2.9m

.end
